US07279473B2
3-[2-(Cyclopropylamino)-4-pyrimidinyl]pyrazolo[1,5-b]pyridazin-6-ol
A solution of N-cyclopropyl-4-(6-methoxypyrazolo[1,5-b]pyridazin-3-yl)-2-pyrimidinamine (510 mg, 1.81 mmol) in morpholine (15 mL) was heated at an oil bath temperature of 130° C. for about 16 hours. The reaction mixture was cooled and the solvent removed in vacuo. The residue was disolved in CH2Cl2 and triturated with diethylether to give the title compound as a yellow solid (400 mg, 82%). 1H-NMR (300 MHz, d6-DMSO) δ 8.96 (d, 1H, J=9.7 Hz), 8.49 (s, 1H), 8.23 (d, 1H, J=5.0 Hz), 7.35 (s, 1H), 7.06 (d, 1H, J=5.1 Hz), 6.97 (d, 1H, J=9.5 Hz), 2.74 (m, 1H), 0.73 (m, 2H), 0.49 (bs, 2H); MS (ESI) (M+H)+ 269.

reactant | N-cyclopropyl-4-(6-methoxypyrazolo[1,5-b]pyridazin-3-yl)-2-pyrimidinamine | 1.81 mmol, 510 mg | C1(CC1)NC1=NC=CC(=N1)C=1C=NN2N=C(C=CC21)OC | C14H14N6O
solvent | morpholine | 15 mL | N1CCOCC1 | C4H9NO
product | 3-[2-(Cyclopropylamino)-4-pyrimidinyl]pyrazolo[1,5-b]pyridazin-6-ol | 400 mg, 82% | C1(CC1)NC1=NC=CC(=N1)C=1C=NN2N=C(C=CC21)O | C13H12N6O
